US05162500
0.759 g (5.70 mmol) of (2R, 3S)-3-amino-2-hydroxypentanoic acid were admixed with a solution of 1.199 g (14.28 mmol) of sodium hydrogen carbonate in 20 ml of water, and with 20 ml of dioxane. The resulting mixture was cooled with ice. To this solution was dropwise added a solution of 1.623 g (6.27 mmol) of 9-fluorenylmethyl chloroformate in 10 ml of dioxane under cooling with ice for 30 minutes. After the completion of the addition, the reaction mixture was stirred at room temperature for 2 hours, diluted with 100 ml of water, and successively washed with 150 ml of ether and 75 ml of ether. To the aqueous layer were added 2.8 ml of 6N hydrochloric acid to adjust to pH 1.5. Then the aqueous layer was extracted three times with 50 ml of ethyl acetate. The oil layer was washed with 50 ml of a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and distilled to remove the solvent therefrom, so that 1.622 g of crude (2R, 3S)-3-(9-fluorenylmethoxycarbonyl)amino-2-hydroxypentanoic acid were obtained.

reactant | (2R, 3S)-3-amino-2-hydroxypentanoic acid | 5.70 mmol, 0.759 g | N[C@H]([C@H](C(=O)O)O)CC | C5H11NO3
reactant | sodium hydrogen carbonate | 14.28 mmol, 1.199 g | C(O)([O-])=O.[Na+]
reactant | 9-fluorenylmethyl chloroformate | 6.27 mmol, 1.623 g | ClC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11ClO2
solvent | water | 20 ml | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 100 ml | O | H2O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | (2R, 3S)-3-(9-fluorenylmethoxycarbonyl)amino-2-hydroxypentanoic acid | 1.622 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H]([C@H](C(=O)O)O)CC | C20H21NO5
